US06525049B2
N-(4-Chlorobenzyl)-2-[(1R)-1-hydroxyethyl]-8-(4-morpholinylmethyl)-6-oxo-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide
To a flask containing ethyl 4-hydroxy-8-iodo-6-(4-morpholinylmethyl)-3-quinolinecarboxylate of Preparation 25 (3.11 g) is added 4-chlorobenzylamine (8.0 mL). The mixture is degassed under reduced pressure. The mixture is placed under an argon atmosphere and is heated at 190° C. for 3 h. The reaction is cooled to room temperature. The excess benzylamine is removed by high vacuum distillation. The residue is crystallized from acetonitrile:methanol (1:1, 800 mL) to yield 3.08 g of the title compound as a white solid:.

reactant | ethyl 4-hydroxy-8-iodo-6-(4-morpholinylmethyl)-3-quinolinecarboxylate | OC1=C(C=NC2=C(C=C(C=C12)CN1CCOCC1)I)C(=O)OCC | C17H19IN2O4
reactant | 4-chlorobenzylamine | 8.0 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | N-(4-Chlorobenzyl)-2-[(1R)-1-hydroxyethyl]-8-(4-morpholinylmethyl)-6-oxo-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide | 3.08 g | ClC1=CC=C(CNC(=O)C2=CN3C4=C(C=C(C=C4C2=O)CN2CCOCC2)C=C3[C@@H](C)O)C=C1 | C26H26ClN3O4
